US08835423B2
Intermediate C-3: 6,11-dihydro-5H-dipyrido[2,3-b:4′,3′-f]azepin-5-one
N,N,N′,N′-tetramethylethylenediamine (8.0 mL, 0.053 mol) and N,N-diisopropylamine (7.4 mL, 0.053 mol) were mixed in tetrahydrofuran (43 mL) and then cooled to −78° C. To the mixture was added 2.50 M of n-butyllithium in hexane (21 mL, 0.0525 mol) and stirred at −78° C. for 10 minutes then at 0° C. for 10 minutes. In a separate flask was added N,N-diethyl-2-[4-methylpyridin-3-yl)amino]nicotinamide (5.00 g, 0.0176 mol) in tetrahydrofuran (100 mL) and then cooled to 0° C. under an atmosphere of nitrogen. The mixture from the first flask was added to the second flask and the resulting mixture stirred at 0° C. for 30 minutes. The reaction was quenched with (aq)NH4Cl and was extracted with ethyl acetate. The organic extracts were washed with brine, dried over MgSO4, concentrated, and purified by column chromatography on silica gel (10% methanol 90% ethyl acetate) to give 3.34 g of the desired product. 1H NMR (300 MHz, CDCl3): δ 8.49 (s, 1H), 8.41-8.45 (m, 2H), 8.34 (dd, 1H, J1=7.8 Hz, J2=1.5 Hz), 7.78 (br s, 1H), 7.24-7.26 (m, 1H), 6.97-7.25 (m, 1H), 3.89 (s, 2H). MS [M+H]=212.

reactant | N,N,N′,N′-tetramethylethylenediamine | 0.053 mol, 8.0 mL | CN(CCN(C)C)C | C6H16N2
reactant | N,N-diisopropylamine | 0.053 mol, 7.4 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.50 M | C(CCC)[Li]
reactant | hexane | 0.0525 mol, 21 mL | CCCCCC | C6H14
reactant | nicotinamide | 0.0176 mol, 5.00 g | C(C1=CN=CC=C1)(=O)N | C6H6N2O
solvent | tetrahydrofuran | 43 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 6,11-dihydro-5H-dipyrido[2,3-b:4′,3′-f]azepin-5-one | 3.34 g | N1=CC=CC2=C1NC1=C(CC2=O)C=CN=C1 | C12H9N3O
